US07452901B2
[4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid
To a solution of [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid diisopropyl ester (25 mg, 0.055 mmol) and 2,6-lutidine (0.18 mL, 1.65 mmol) in acetonitrile was added trimethylsilyl bromide (0.126 mL, 1.1 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred for 4 h. The reaction was quenched with methanol at 0° C., and the resulting mixture was concentrated. The residue was purified by preparative reverse-phase HPLC to afford, after removal of the solvent, [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid as an oil (17 mg, 83%); 1H NMR (300 MHz, CD3OD) δ 1.81 (s, 3H), 2.06 (s, 3H), 3.40 (d, J=6.6 Hz, 2H), 3.50 (d, 2H), 3.77 (s, 3H), 3.97 (s, 2H), 5.20 (s, 2H), 5.47 (t, J=6.6 Hz, 1H); MS (m/z) 371 [M−H]−.

reactant | [4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid diisopropyl ester | 0.055 mmol, 25 mg | C(C)(C)OP(OC(C)C)(=O)COCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C22H33O8P
reactant | 2,6-lutidine | 1.65 mmol, 0.18 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl bromide | 1.1 mmol, 0.126 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | acetonitrile | C(C)#N | C2H3N
product | [4-(4-Hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyloxymethyl]-phosphonic acid | OC1=C2C(OCC2=C(C(=C1CC=C(COCP(O)(O)=O)C)OC)C)=O | C16H21O8P
